US09193669B2
To a stirred solution of 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione (0.50 g, 1.78 mmol) in EtOH:H2O (9:1), 2,2-dipropyloxirane (0.45 g, 3.57 mmol) was added and the reaction mixture was stirred under reflux for 36 h. The reaction mixture was concentrated under reduced pressure. Purification by column chromatography (20% to 30% EtOAc—hexanes gradient) gave 2-(3-(3-(2-hydroxy-2-propylpentylamino)phenyl)propyl)isoindoline-1,3-dione as a yellow semisolid. Yield (0.22 g, 30%); 1H NMR (400 MHz, DMSO-d6) δ 7.86-7.81 (m, 4H), 6.92 (t, J=7.8 Hz, 1H), 6.45 (s, 1H), 6.41 (d, J=8.0 Hz, 1H), 6.37 (d, J=7.6 Hz, 1H), 4.89 (bs, 1H), 4.16 (s, 1H), 3.59 (t, J=7.2 Hz, 2H), 2.87 (d, J=5.2, 2H), 2.46-2.50 (m, 2H), 1.83-1.90 (quintet, J=7.2 Hz, 2H), 1.42-1.38 (m, 4H), 1.28-1.24 (m, 4H), 0.84 (t, J=7.2 Hz, 6H).

reactant | 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione | 1.78 mmol, 0.50 g | NC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O2
reactant | 2,2-dipropyloxirane | 3.57 mmol, 0.45 g | C(CC)C1(OC1)CCC | C8H16O
solvent | EtOH H2O | CCO.O
product | 2-(3-(3-(2-hydroxy-2-propylpentylamino)phenyl)propyl)isoindoline-1,3-dione | OC(CNC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)(CCC)CCC | C25H32N2O3
